US07709545B2
4-chlorobenzophenone and sodium hydrogen sulfide are reacted to produce 4-thiolbenzophenone. The thiol functionalities are then reacted with methyl acrylate or any other oligomeric diacrylate or polyacrylate. One product has the following formula:

reactant | 4-chlorobenzophenone | ClC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9ClO
reactant | sodium hydrogen sulfide | S.[Na]
product | 4-thiolbenzophenone | S1C=CC(=C1)C1=CC=CC=C1C(=O)C1=CC=CC=C1 | C17H12OS
